US05808062
6-[3,5-Dimethyl-4-[[dimethyl(1,1-dimethylethyl)silyl]oxy]phenyl]-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3', 5'-dimethyl-4'-[[dimethyl(1,1-dimethylethyl)silyl]oxy] acetophenone (1.50 g, 5.39 mmol), trimethylsilyltriflate (1.24 mL, 6.47 mmol), triethylamine (1.50 mL, 10.78 mmol), methylene chloride (13 mL), and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.54 mmol). m.p. 137°-139° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.21 (s, 6 H), 0.99 (s, 9H), 2.22 (s, 6 H), 3.96 (s, 2 H), 6.54 (s, 1 H), 6.99 (d, 1 H), 7.21 (m, 5 H), 7.44 (m, 2 H).

reactant | 3', 5'-dimethyl-4'-[[dimethyl(1,1-dimethylethyl)silyl]oxy] acetophenone | 5.39 mmol, 1.50 g | CC=1C=C(C=C(C1O[Si](C(C)(C)C)(C)C)C)C(C)=O | C16H26O2Si
reactant | trimethylsilyltriflate | 6.47 mmol, 1.24 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | triethylamine | 10.78 mmol, 1.50 mL | C(C)N(CC)CC | C6H15N
reactant | [(phenylmethyl)thio]propanedioic acid | 3.54 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
product | 6-[3,5-Dimethyl-4-[[dimethyl(1,1-dimethylethyl)silyl]oxy]phenyl]-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one | CC=1C=C(C=C(C1O[Si](C(C)(C)C)(C)C)C)C1=CC(=C(C(O1)=O)SCC1=CC=CC=C1)O | C26H32O4SSi
